US06946472B2
Preparation of 11-chloro-6-{2-[(3-{[2-(11-chloro-3-methoxy-4-methyl-7-oxo-7H-5,10-diaza-benzo[c]fluoren-6-ylamino)-ethyl]-methyl-amino}-propyl)-methylamino]-ethylamino}-3-methoxy-4-methyl-5,10-diaza-benzo[c]fluoren-7-one
In a similar manner to Example 4, this compound was obtained starting from toluene-4-sulfonic acid 11-chloro-3-methoxy-4-methyl-7-oxo-7H-5,10-diaza-benzo[c]fluoren-6-yl ester (the compound of Reference Example 5) and N,N′-bis-(2-amino-ethyl)-N,N′-dimethyl-propane-1,3-diamine. The desired product was obtained as a reddish powder.

reactant | toluene-4-sulfonic acid 11-chloro-3-methoxy-4-methyl-7-oxo-7H-5,10-diaza-benzo[c]fluoren-6-yl ester | ClC=1C=2C=3C4=C(N=C(C3C(C2C=CN1)=O)OS(=O)(=O)C1=CC=C(C=C1)C)C(=C(C=C4)OC)C | C24H17ClN2O5S
reactant | N,N′-bis-(2-amino-ethyl)-N,N′-dimethyl-propane-1,3-diamine | NCCN(CCCN(C)CCN)C | C9H24N4
product | 11-chloro-6-{2-[(3-{[2-(11-chloro-3-methoxy-4-methyl-7-oxo-7H-5,10-diaza-benzo[c]fluoren-6-ylamino)-ethyl]-methyl-amino}-propyl)-methylamino]-ethylamino}-3-methoxy-4-methyl-5,10-diaza-benzo[c]fluoren-7-one | ClC=1C=2C=3C4=C(N=C(C3C(C2C=CN1)=O)NCCN(C)CCCN(C)CCNC1=NC2=C(C=3C=5C(=NC=CC5C(C13)=O)Cl)C=CC(=C2C)OC)C(=C(C=C4)OC)C | C43H42Cl2N8O4
